US08471005B2
[7-(2-Fluoro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine and 2-fluoro-3-pyridineboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (93 mg, 81%). m.p.=215-221° C.; LCMS (m/e) 391 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.94-8.85 (m, 1H), 8.75 (s, 1H), 8.24-8.17 (m, 1H), 7.49 (d, 2H, J=7.6 Hz), 7.36-7.27 (m, 1H), 7.19-7.12 (m, 1H), 6.90 (m, 2H, J=7.6 Hz), 6.85 (m, 1H, J=4.2 Hz), 6.70 (s, 1H), 3.92-3.85 (m, 4H), 3.17-3.10 (m, 4H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 2-fluoro-3-pyridineboronic acid | FC1=NC=CC=C1B(O)O | C5H5BFNO2
product | [7-(2-Fluoro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | FC1=NC=CC=C1C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C21H19FN6O
